US06297239B1
Step D: Preparation of 4-[(4-Chloro-phenyl)-imidazol-1-yl-methyl]-2-fluoro-benzonitrile
To a solution of (4-cyano-3-fluoro-phenyl)—(4-chloro-phenyl)-methanol (2.2 g, 8.79 mmol) in acetonitrile (30 mL) was added CDI (4.28 g, 8.79 mmol) and imidazole hydrochloride (2.75 g, 8.79 mmol) and the mixture was heated at reflux for 3 hr. The acetonitrile was removed in uacuo and the residue was partitioned with EtOAc and saturated NaHCO3 solution. The EtOAc layer was washed with H2O, brine, and dried (MgSO4). Filtration and concentration in vacuo gave the title compound.

reactant | (4-cyano-3-fluoro-phenyl)—(4-chloro-phenyl)-methanol | 8.79 mmol, 2.2 g | C(#N)C1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)Cl)F | C14H9ClFNO
reactant | CDI | 8.79 mmol, 4.28 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | imidazole hydrochloride | 8.79 mmol, 2.75 g | Cl.N1C=NC=C1
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-[(4-Chloro-phenyl)-imidazol-1-yl-methyl]-2-fluoro-benzonitrile | ClC1=CC=C(C=C1)C(C1=CC(=C(C#N)C=C1)F)N1C=NC=C1 | C17H11ClFN3
